US06699860B2
Preparation of 2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl trifluoromethanesulfonate
Trifluoroacetic acid (80 mL), trifluoroacetic anhydride (50 mL), and acetone (10 mL) were added to 2,4-dihydroxybenzoic acid (10.0 g, 64.9 mmol, 1.0 eq.) at 0° C. The reaction mixture was allowed to warm up slowly to room temperature and stirred for 48 hours. The mixture was then concentrated under reduced pressure. The resulting residue was washed with saturated sodium bicarbonate (100 mL), extracted with ethyl acetate (3×100 mL). The combined extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure to give crude product as yellow solid (9.2 g). The yellow crude material was treated with trifluoromethanesulfonic anhydride (8.8 mL, 52.11 mmol, 1.1 eq.) in the presence of pyridine (50 mL) at 0° C. for 8 hours. The resulting mixture was then diluted with distilled water (100 mL), extracted with ethyl acetate (3×50 mL) and washed with saturated sodium bicarbonate (60 mL) and brine (100 mL). The combined extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure to give brown oil. Purification by flash chromatography on a silica gel column (20%-40% ethyl acetate/hexanes) yielded the desired product as a white solid (8.3 g, 40%). 1H NMR (CDCl3) δ8.08 (d, 1 H), 7.03 (d, 1 H), 6.94 (s, 1 H), 1.77 (s, 6H), GC-MS: 326 (M+), retention time: 7.557 min.

reactant | Trifluoroacetic acid | 80 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic anhydride | 50 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2,4-dihydroxybenzoic acid | 64.9 mmol, 10.0 g, 1.0 eq. | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
reactant | trifluoromethanesulfonic anhydride | 52.11 mmol, 8.8 mL, 1.1 eq. | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | water | 100 mL | O | H2O
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl trifluoromethanesulfonate | 8.3 g, 40% | FC(S(=O)(=O)OC=1C=CC2=C(OC(OC2=O)(C)C)C1)(F)F | C11H9F3O6S
